US05041448
A mixture of 3.46 parts of N-(dihydro-3,3-diphenyl-2(3H)-furanylidene)-N-methylmethanaminium bromide, 3.1 parts of N-(4-piperidinyl)-9-(2-pyridinylmethyl)-9H-purin-8-amine, 1.5 parts of sodium carbonate and 45 parts of N,N-dimethylacetamide was stirred overnight at 80° C. after cooling, the reaction mixture was poured into water and the product was extracted with 4-methyl-2-pentanone. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane and methanol, saturated with ammonia (95:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The residue was crystallized from acetonitrile. The product was filtered off and dried, yielding 4.1 parts (71%) of N,N-dimethyl-α,α-diphenyl-4-[[9-(2-pyridinylmethyl)-9H-purin-8-yl]amino]-1-piperidinebutanamide; mp. 191.6° C. (compound 122).

reactant | N-(dihydro-3,3-diphenyl-2(3H)-furanylidene)-N-methylmethanaminium bromide | [Br-].C1(=CC=CC=C1)C1(C(OCC1)=[N+](C)C)C1=CC=CC=C1
reactant | N-(4-piperidinyl)-9-(2-pyridinylmethyl)-9H-purin-8-amine | N1CCC(CC1)NC=1N(C2=NC=NC=C2N1)CC1=NC=CC=C1 | C16H19N7
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
solvent | water | O | H2O
product | N,N-dimethyl-α,α-diphenyl-4-[[9-(2-pyridinylmethyl)-9H-purin-8-yl]amino]-1-piperidinebutanamide | 71% | CN(C(C(CCN1CCC(CC1)NC=1N(C2=NC=NC=C2N1)CC1=NC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C | C34H38N8O
